US05037822
1-[4-(1-Hexahydroazepinyl)benzenesulphonyl]-2-pyrrolidinethione
A mixture comprising 5 g of 1-[4-(1-hexahydroazepinyl)benzenesulphonyl]-2-pyrrolidinone, prepared as in Example 18 of the European Patent Application published under No. 0,033,578, and 3.13 g of Lawesson reagent (or 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane in 100 cm3 of dimethoxyethane is heated to reflux for 3 hours. The mixture is allowed to return to room temperature and is evaporated to dryness, and the residue is chromatographed on silica (eluant: benzene). 2 g of product are recovered. M.p. 168°-170° C. After crystallization in methanol, 1.5 g of expected product are obtained. M.p. 172°-173° C.

reactant | 1-[4-(1-hexahydroazepinyl)benzenesulphonyl]-2-pyrrolidinone | 5 g | N1(CCCCCC1)C1=CC=C(C=C1)S(=O)(=O)N1C(CCC1)=O | C16H22N2O3S
reactant | Lawesson reagent | 3.13 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | 2,4-bis(4-methoxyphenyl)-1,3,2,4-dithiadiphosphetane | COC1=CC=C(C=C1)P1SP(S1)C1=CC=C(C=C1)OC | C14H14O2P2S2
solvent | dimethoxyethane | 100 cm3 | C(OC)COC | C4H10O2
product | 1-[4-(1-Hexahydroazepinyl)benzenesulphonyl]-2-pyrrolidinethione | 1.5 g | N1(CCCCCC1)C1=CC=C(C=C1)S(=O)(=O)N1C(CCC1)=S | C16H22N2O2S2
